US05866717
N-Benzyloxycarbonyl-L-phenylalanine-N-2-(2-methoxy-ethoxymethoxy)ethylamide
To a solution of N-benzyloxycarbonyl-L-phenylalanine-N-(2-hydroxylethyl)amide (7.0 g, 20.4 mmol) in dry dichloromethane (150 ml) under an argon atmosphere was added 2-methoxyethoxymethyl chloride (5.6 ml, 49.0 mmol) and diisopropylethylamine (10.7 ml, 61.4 mmol). The reaction mixture was stirred overnight at room temperature, after which time starting material was still detectable by TLC. The solvent volume was concentrated to one third, an equal volume of DMF was added and the reaction mixture was stirred for a further 60 hours at room temperature. The solvents were removed under reduced pressure, the residue was dissolved in ethyl acetateand washed successively with 1M hydrochloric acid, sat. aq. sodium hydrogencarbonate and brine. The organic phase was dried over sodium sulphate, filtered and concentrated to afford the desired product as a pale yellow oil which crystallised when left under high vacuum for ca. 1 hour. Yield: 8.0 g (90%). 1H--NMR; δ(CDCI3), 7.33-7.14 (10H, m), 6.84 (1H, br s), 5.89 (1H, br s), 5.01 (2H, m), 4.54 (2H, s), 4.46 (1H, m), 3.56-3.26 (11H, m), 3.02 (2H, m).

reactant | N-benzyloxycarbonyl-L-phenylalanine-N-(2-hydroxylethyl)amide | 20.4 mmol, 7.0 g | OCCNC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C19H22N2O4
reactant | 2-methoxyethoxymethyl chloride | 49.0 mmol, 5.6 ml | COCCOCCl | C4H9ClO2
reactant | diisopropylethylamine | 61.4 mmol, 10.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-Benzyloxycarbonyl-L-phenylalanine-N-2-(2-methoxy-ethoxymethoxy)ethylamide | COCCOCOCCNC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H30N2O6
